US05677314
9-(4-Formylbenzylidene)-8-ketotricyclo[5.2.1.02,6 ]decane
A suspension of 40 mmol (6.3 g) of 8-ketotricyclo[5.2.1.02,6 ]decane and 60 mmol of sodium methoxide (11 g of a 30% solution) in 50 ml of cyclohexane are stirred at 50° C. for 30 minutes. 50 mmol (9.0 g) of terephthalaldehyde monodimethyl acetal are then added dropwise and the mixture is refluxed for 1 hour. It is then cooled to room temperature and 100 ml of water are added.

reactant | 8-ketotricyclo[5.2.1.02,6 ]decane | 40 mmol, 6.3 g | O=C1C2C3CCCC3C(C1)C2 | C10H14O
reactant | sodium methoxide | 60 mmol | C[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
product | 9-(4-Formylbenzylidene)-8-ketotricyclo[5.2.1.02,6 ]decane | C(=O)C1=CC=C(C=C2C(C3C4CCCC4C2C3)=O)C=C1 | C18H18O2
